data/nitro/train.csv
rxn,smiles,ea
227,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])(\[Cl:25])[C:26]([H:27])([H:28])[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([Cl:25])[C:26]([H:27])([H:28])[H:29],-7.586213662572506
35,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[H:14])([C:15]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[H:14])([C:15]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22],-5.831906133789028
630,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])(\[c:31]1[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]([H:39])[c:40]1[H:41])[C:42]([H:43])([H:44])[H:45]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]1[H:30])([c:31]1[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]([H:39])[c:40]1[H:41])[C:42]([H:43])([H:44])[H:45],8.625656123396947
131,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Cl:14])(\[C:15]([H:16])([H:17])[H:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Cl:14])([C:15]([H:16])([H:17])[H:18])[c:19]1[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]([H:27])[c:28]1[H:29],-5.523997275156471
176,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])(\[C:23]([H:24])([H:25])[H:26])[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([C:23]([H:24])([H:25])[H:26])[H:27],-11.073310792468652
358,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])(\[Cl:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])([Cl:21])[c:22]1[c:23]([H:24])[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]1[H:32],-2.04227915637255
738,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[H:11])[Br:12])([c:13]1[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]1[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[Br:12])([c:13]1[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]1[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34],-11.550327806784065
E7,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[C@:15]([H:16])([O:17][H:18])[C:19]([H:20])([H:21])[H:22])[H:23])([H:24])[H:25]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[C@:15]([H:16])([O:17][H:18])[C:19]([H:20])([H:21])[H:22])[H:23])([H:24])[H:25],-16.831559236692925
749,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34])([c:35]1[c:36]([H:37])[c:38]([H:39])[c:40]([H:41])[c:42]([H:43])[c:44]1[H:45])[c:46]1[c:47]([H:48])[c:49]([H:50])[c:51]([H:52])[c:53]([H:54])[c:55]1[H:56]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[c:24]1[c:25]([H:26])[c:27]([H:28])[c:29]([H:30])[c:31]([H:32])[c:33]1[H:34])([c:35]1[c:36]([H:37])[c:38]([H:39])[c:40]([H:41])[c:42]([H:43])[c:44]1[H:45])[c:46]1[c:47]([H:48])[c:49]([H:50])[c:51]([H:52])[c:53]([H:54])[c:55]1[H:56],-5.245351065617742
756,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[H:17])([c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28])[c:29]1[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]1[H:39]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[H:17])([c:18]1[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]([H:26])[c:27]1[H:28])[c:29]1[c:30]([H:31])[c:32]([H:33])[c:34]([H:35])[c:36]([H:37])[c:38]1[H:39],-0.1947268574166825
